US09145380B2
4-Cyano-2-(2-(3,4-dichlorophenyl)ethylsulfonamido)benzenesulfonamide
(E)-4-Cyano-2-(2-(3,4-dichlorophenyl)vinylsulfonamido)benzenesulfonamide (123 mg, 0.28 mmol), sodium acetate (93 mg, 1.14 mmol) and para-toluenesulfonhydrazide (212 mg, 1.14 mmol) were dissolved in anhydrous tetrahydrofuran (3 mL) in a microwave vial. The vial was capped and evacuated two times with argon. The mixture was heated in a microwave at 180° C. for 15 min. The mixture was filtered and the solvent was evaporated in vacuo. Purification twice by preparative HPLC gave 4.8 mg (4% yield) of the title compound.

reactant | (E)-4-Cyano-2-(2-(3,4-dichlorophenyl)vinylsulfonamido)benzenesulfonamide | 0.28 mmol, 123 mg | C(#N)C1=CC(=C(C=C1)S(=O)(=O)N)NS(=O)(=O)\C=C\C1=CC(=C(C=C1)Cl)Cl | C15H11Cl2N3O4S2
reactant | sodium acetate | 1.14 mmol, 93 mg | C(C)(=O)[O-].[Na+]
reactant | para-toluenesulfonhydrazide | 1.14 mmol, 212 mg | C1(=CC=C(C=C1)S(=O)(=O)NN)C | C7H10N2O2S
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
product | 4-Cyano-2-(2-(3,4-dichlorophenyl)ethylsulfonamido)benzenesulfonamide | 4.8 mg, 4% yield | C(#N)C1=CC(=C(C=C1)S(=O)(=O)N)NS(=O)(=O)CCC1=CC(=C(C=C1)Cl)Cl | C15H13Cl2N3O4S2
